US08372874B2
N,N-diisoproylethylamine (9.9 g, 76.8 mmol) is added to a solution of 1-benzyloxycarbonyl-3-(4-methoxy-benzoyl)-2-methyl-isothiourea (11.0 g, 30.7 mmol) and ethyl hydrazine oxalate (11.6 g, 76.8 mmol) in DMF (110.0 mL) and the reaction mixture is heated at 50° C. for 12 h. Ice and ether are added to the reaction mixture and the two phases are separated. The organic phase is dried over anhydrous Na2SO4, filtered and concentrated under reduced pressure to afford 10 g of [1-ethyl-5-(4-methoxy-phenyl)-1H-1,2,4-triazol-3-yl]-carbamic acid benzyl ester that is used in the next step without further purification. m/z 353 [M+H].

reactant | N,N-diisoproylethylamine | 76.8 mmol, 9.9 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 1-benzyloxycarbonyl-3-(4-methoxy-benzoyl)-2-methyl-isothiourea | 30.7 mmol, 11.0 g | C(C1=CC=CC=C1)OC(=O)NC(SC)=NC(C1=CC=C(C=C1)OC)=O | C18H18N2O4S
reactant | ethyl hydrazine oxalate | 76.8 mmol, 11.6 g | C(C(=O)O)(=O)O.C(C)NN
reactant | ether | CCOCC | C4H10O
solvent | DMF | 110.0 mL | CN(C)C=O | C3H7NO
product | [1-ethyl-5-(4-methoxy-phenyl)-1H-1,2,4-triazol-3-yl]-carbamic acid benzyl ester | 10 g | C(C1=CC=CC=C1)OC(NC1=NN(C(=N1)C1=CC=C(C=C1)OC)CC)=O | C19H20N4O3
